US07700638B2
1-Phenyl-7-(3-(1-piperidinyl)prop-1-ynyl)-5-trifluoromethylbenzimidazole
This was prepared in a similar manner to 7-(3-(4-morpholinyl)prop-1-ynyl)-1-phenyl-5-trifluoromethylbenzimidazole using piperidine in place of morpholine to realise the desired product (13 mg, 17%) m/z, 384.4 (M+H)+.

reactant | 7-(3-(4-morpholinyl)prop-1-ynyl)-1-phenyl-5-trifluoromethylbenzimidazole | N1(CCOCC1)CC#CC1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C21H18F3N3O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-Phenyl-7-(3-(1-piperidinyl)prop-1-ynyl)-5-trifluoromethylbenzimidazole | 13 mg, 17% | C1(=CC=CC=C1)N1C=NC2=C1C(=CC(=C2)C(F)(F)F)C#CCN2CCCCC2 | C22H20F3N3
